US07723367B2
2-(2-Chloro-pyridin-3-yloxy)-nicotinonitrile
2-Fluoro-nicotinonitrile was reacted with 2-chloro-pyridin-3-ol according to the method of Example 85A to provide the title compound. MS (DCI/NH3) m/z 232 (M)+, 234 (M+2)+.

reactant | 2-Fluoro-nicotinonitrile | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | 2-chloro-pyridin-3-ol | ClC1=NC=CC=C1O | C5H4ClNO
product | 2-(2-Chloro-pyridin-3-yloxy)-nicotinonitrile | ClC1=NC=CC=C1OC1=C(C#N)C=CC=N1 | C11H6ClN3O
